US05508272
a) N-[(Phenylmethoxy)carbonyl]-L-cysteine
A solution of N,N'-bis[(phenylmethoxy)-carbonyl]-L-cystine (4.658 g., 9.16 mmol.) in methanol (35 ml.) was treated with 2N sulfuric acid (23 ml.) followed by portionwise treatment with zinc dust (2.442 g., 37.3 mmol.). The mixture was heated at 70° C. for 1.5 hours, filtered while still warm, and concentrated on the rotovap. The residual solution was extracted with ethyl ether and the ethereal extract was washed with water and brine, then dried (sodium sulfate), filtered and stripped. The residue (oil) was dissolved in carbon tetrachloride, cooled to 0° C., and seeded to slowly afford a precipitate. The solid was collected by filtration and washed with cold carbon tetrachloride to give 2.648 g. of product. The mother liquor was stripped, flash chromatographed (Merck silica gel, ethyl acetate followed by 4% acetic acid in ethyl acetate) to give additional product after crystallization (246 mg.). The total yield of product was 2.894 g. TLC (5% acetic acid in ethyl acetate) Rf =0.58.

reactant | N,N'-bis[(phenylmethoxy)-carbonyl]-L-cystine | 9.16 mmol, 4.658 g | C1(=CC=CC=C1)COC(=O)N[C@@H](CSSC[C@@H](C(=O)O)NC(=O)OCC1=CC=CC=C1)C(=O)O | C22H24N2O8S2
reactant | sulfuric acid | 2N, 23 ml | S(O)(O)(=O)=O | H2O4S
solvent | methanol | 35 ml | CO | CH4O
catalyst | zinc | 37.3 mmol, 2.442 g | [Zn] | Zn
product | N-[(Phenylmethoxy)carbonyl]-L-cysteine | C1(=CC=CC=C1)COC(=O)N[C@@H](CS)C(=O)O | C11H13NO4S
